US08349851B2
To (7-(benzyloxy)-4-chloroquinazolin-2-yl)(4-fluorophenyl)methanone (380 mg, 0.97 mmol) in DMF (10 mL) at rt were added DIEA (500 uL, 2.90 mmol), 5-methyl-1H-pyrazol-3-amine (280 mg, 2.90 mmol), and KI (161 mg, 0.97 mmol). After stirring at 40° C. for 18 h, the solution was cooled and diluted with water. After standing at 0° C. for 1 h, the precipitate was collected by filtration and dried under reduced pressure to afford (7-(benzyloxy)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone as a yellow solid (365 mg, 83%) 1H NMR (300 MHz, DMSO-d6) δ ppm 2.18 (s, 3 H) 5.30 (s, 2 H) 6.48 (s, 1H) 7.33-7.44 (m, 8 H) 7.50-7.52 (m, 2 H) 8.07 (m, 2 H) 8.65 (m, 1 H) 10.53 (s, 1 H) 12.18 (s, 1 H). LC-MS (ESI) m/z 454 (M+H)+

reactant | (7-(benzyloxy)-4-chloroquinazolin-2-yl)(4-fluorophenyl)methanone | 0.97 mmol, 380 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NC(=NC2=C1)C(=O)C1=CC=C(C=C1)F)Cl | C22H14ClFN2O2
reactant | DIEA | 2.90 mmol, 500 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 2.90 mmol, 280 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (7-(benzyloxy)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone | 365 mg, 83% | C(C1=CC=CC=C1)OC1=CC=C2C(=NC(=NC2=C1)C(=O)C1=CC=C(C=C1)F)NC1=NNC(=C1)C | C26H20FN5O2
